US07662402B2
1.8 g of 2-(5-benzyloxypentyl)-2-(3,3,3-trifluoropropyl)malononitrile was added to 20 ml of acetonitrile was cooled to 0° C. To the mixture, 1.6 g of sodium iodide added and 1.3 g of trifluoroborane-diethyl ether complex dissolved in 5 ml of acetonitrile was further added dropwise. The mixture was stirred at 0° C. for 1 hour and at room temperature for 6 hours. Thereafter, water was added to the reaction mixture, followed by extraction with chloroform. The organic layer was washed successively with water and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.40 g of 2-(5-hydroxypentyl)-2-(3,3,3-trifluoropropyl)malononitrile.

reactant | 2-(5-benzyloxypentyl)-2-(3,3,3-trifluoropropyl)malononitrile | 1.8 g | C(C1=CC=CC=C1)OCCCCCC(C#N)(C#N)CCC(F)(F)F | C18H21F3N2O
reactant | sodium iodide | 1.6 g | [I-].[Na+]
reactant | water | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(5-hydroxypentyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.40 g | OCCCCCC(C#N)(C#N)CCC(F)(F)F | C11H15F3N2O
